US07902238B2
In analogy to example 20.a tert-butyl (S)-4-[(3-chloro-phenylamino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester was reacted with p-anisaldehyde dimethyl acetal to give (S)-4-{[(3-chloro-phenyl)-(4-methoxy-benzyl)-amino]-methyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester. White solid. MS (ISP): 463.1 ([{37Cl}M+H]+), 461.1 ([{35Cl}M+H]+)

reactant | tert-butyl (S)-4-[(3-chloro-phenylamino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@]1(CNC1=CC(=CC=C1)Cl)C(C)(C)C)(C)C | C21H33ClN2O3
reactant | p-anisaldehyde dimethyl acetal | COC(C1=CC=C(C=C1)OC)OC | C10H14O3
product | (S)-4-{[(3-chloro-phenyl)-(4-methoxy-benzyl)-amino]-methyl}-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CN(CC1=CC=C(C=C1)OC)C1=CC(=CC=C1)Cl)(C)C | C25H33ClN2O4
